*AD8310 SPICE Macro-model
*Description: Logarithmic Amplifier
*Generic Desc: Fast, Voltage-Output, DC to 440 MHz, 95 dB Logarithmic Amplifier
*Developed by: Joel Dobler
*
*Revision History:
*1.0 (2/2014) - JD
*
*1.1 (XX/2014) JD
*	BEGIN Revision notes:
*
*	- Revised format by limiting line length by using the line continuation operator, '+'
*
*	END Revsion notes
*
*2.0 (March 2016) JD
*	BEGIN Reviion notes
*		-  Removed 'meg' suffix and replaced with equivalent zeros
*		-  changed node 'OFLT' to '3'
*
*	END Revision notes
*
*Copyright 2014 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
*
* BEGIN Notes:
*
* Not Modeled:
*   Noise on Output Stage
*	Offset Compensation Loop
*	Random input DC offsets
*
* Parameters/Affects modeled include:
*   Vout saturation (due to detectors)
*	Vout saturation (due to larger than nominal slopes)
*   Transfer Function Ripple
*   Input Z as a function of frequency
*   Adjustable Slope and Intercept (w/ external connections)
*   Input DC bias
*   Vout function of frequency
*   Output Filtering (video BW)
*   Enable/Disable Function
*   Supply Current (@ 5V supply)
*   Vout sensitivity limit
*   Temperature Drift
*
* Supply range:
*    Single Supply: 2.7V to 5.5V
*
*
*
* Typical Specifications used in Model
*
* END Notes

* Added to make PySpice work
.PARAM TEMP=25
.func if(a,b,c) 'ternary_fcn( a , b , c )'

*****************************************************************************************************
*****************************************************************************************************
*Node Assignments
*
*					 Positive Signal Input
*					 | Negative Signal Input
*					 | | Postive Supply
*					 | | | Offset Filter Access
*					 | | | | Log Output
*					 | | | | | Buffer Input
*					 | | | | | | Chip Enable
*					 | | | | | | |
.SUBCKT AD8310_MODEL 8 1 5 3 4 6 7

*Supply Current
G1 0 5 VALUE = {IF(V(7) >= 2.3, 8m, 0.05u)}

*Input Stage
R1 8 9 500
R2 1 9 500
C1 8 1 1.4p
R3 8 0 100000000
R4 1 0 100000000
V1 9 0 3.2578
E1 10 0 VALUE = {IF(V(7) >= 2.3 ,V(8)-V(1), 0)}
V2 12 11 0u
E13 44 0 24 0 1000
R29 44 3 2625
C23 3 0 33p
E14 45 0 VALUE = {IF(V(3) <= 15m, V(3), 15m)}
E2 11 10 VALUE = {0}

*Amplifier Stages
E3 13 0 VALUE = {998.692u*(TEMP+287.775)
+*TANH(V(12)/(172.5u*(TEMP+274.15)))}
R5 13 14 1k
C2 14 0 .18p
E4 15 0 VALUE = {904.1875u*(TEMP+287.334488)
+*TANH(V(14)/(172.5u*(TEMP+274.15)))}
R6 15 16 1k
C3 16 0 .08p
E5 17 0 VALUE = {903.975u*(TEMP+287.7372)
+*TANH(V(16)/(172.5u*(TEMP+274.15)))}
R7 17 18 1k
C4 18 0 .08p
E6 19 0 VALUE = {801.8u*(TEMP+301.1642)
+*TANH(V(18)/(172.5u*(TEMP+274.15)))}
R8 19 20 1k
C5 20 0 .108p
E7 21 0 VALUE = {896.75u*(TEMP+301.1642)
+*TANH(V(20)/(172.5u*(TEMP+274.15)))}
R9 21 22 1k
C6 22 0 .085p
E8 23 0 VALUE = {977.5u*(TEMP+273.2804)
+*TANH(V(22)/(172.5u*(TEMP+274.15)))}
R10 23 24 1k
C7 24 0 .085p

*Detector Stages
G2 0 25 VALUE = {(7.76n*TEMP + 29.8147u)
+*(COSH(V(14)/(172.5u*(TEMP+274.15)))
+/(1+COSH(V(14)/(172.5u*(TEMP+274.15)))))}
C8 25 0 0.3p
R11 25 26 4k
G3 0 27 VALUE = {-(7.76n*TEMP + 29.8147u)
+/(1+COSH(V(14)/(172.5u*(TEMP+274.15))))}
C9 27 0 0.3p
R12 27 26 4k
G4 0 28 VALUE = {(.9885n*TEMP + 29.70868u)
+*(COSH(V(16)/(172.5u*(TEMP+274.15)))
+/(1+COSH(V(16)/(172.5u*(TEMP+274.15)))))}
C10 28 0 0.3p
R13 28 26 4k
G5 0	29 VALUE = {-(.9885n*TEMP + 29.70868u)
+/(1+COSH(V(16)/(172.5u*(TEMP+274.15))))}
C11 29 0 0.3p
R14 29 26 4k
G6 0 30 VALUE = {(.9885n*TEMP + 29.70868u)
+*(COSH(V(18)/(172.5u*(TEMP+274.15)))
+/(1+COSH(V(18)/(172.5u*(TEMP+274.15)))))}
C12 30 0 0.3p
R15 30 26 4k
G7 0 31 VALUE = {-(.9885n*TEMP + 29.70868u)
+/(1+COSH(V(18)/(172.5u*(TEMP+274.15))))}
C13 31 0 0.3p
R16 31 26 4k
G8 0 32 VALUE = {(3.954n*TEMP + 29.6286u)
+*(COSH(V(20)/(172.5u*(TEMP+274.15)))
+/(1+COSH(V(20)/(172.5u*(TEMP+274.15)))))}
C14 32 0 0.3p
R17 32 26 4k
G9 0 33 VALUE = {-(3.954n*TEMP + 29.6286u)
+/(1+COSH(V(20)/(172.5u*(TEMP+274.15))))}
C15 33 0 0.3p
R18 33 26 4k
G10 0	34 VALUE = {(7.908n*TEMP + 29.5219u)
+*(COSH(V(22)/(172.5u*(TEMP+274.15)))
+/(1+COSH(V(22)/(172.5u*(TEMP+274.15)))))}
C16 34 0 0.3p
R19 34 26 4k
G11 0 35 VALUE = {-(7.908n*TEMP + 29.5219u)
+/(1+COSH(V(22)/(172.5u*(TEMP+274.15))))}
C17 35 0 0.3p
R20 35 26 4k
G12 0 36 VALUE = {(37.46n*TEMP + 57.0747u)
+*(COSH(V(24)/(172.5u*(TEMP+274.15)))
+/(1+COSH(V(24)/(172.5u*(TEMP+274.15)))))}
C18 36 0 0.3p
R21 36 26 4k
G13 0 37 VALUE = {-(37.46n*TEMP + 57.0747u)
+/(1+COSH(V(24)/(172.5u*(TEMP+274.15))))}
C19 37 0 0.3p
R22 37 26 4k
G14 0 38 VALUE = {(7.132n*TEMP + 27.5784u)
+*(COSH(1.2*V(12)/(172.5u*(TEMP + 274.15)))
+/(1+COSH(1.2*V(12)/(172.5u*(TEMP + 274.15)))))}
G15 0 39 VALUE = {-(7.132n*TEMP + 27.5784u)
+/(1+COSH(1.2*V(12)/(172.5u*(TEMP + 274.15))))}
G16 0 38 VALUE = {(4.7n*TEMP + 26.8338u)
+*(COSH(.25*V(12)/(172.5u*(TEMP + 274.15)))
+/(1+COSH(.25*V(12)/(172.5u*(TEMP + 274.15)))))}
G17 0 39 VALUE = {-(4.7n*TEMP + 26.8338u)
+/(1+COSH(.25*V(12)/(172.5u*(TEMP + 274.15))))}
G18 0 38 VALUE = {(9.564n*TEMP + 31.8017u)
+*(COSH(.045*V(12)/(172.5u*(TEMP + 274.15)))
+/(1+COSH(.045*V(12)/(172.5u*(TEMP + 274.15)))))}
G19 0 39 VALUE = {-(9.564n*TEMP + 31.8017u)
+/(1+COSH(.045*V(12)/(172.5u*(TEMP + 274.15))))}
C20 38 0 0.4p
R23 38 26 800
C21 39 0 0.4p
R24 39 26 800
G20 0 26 VALUE = {-45u}
R25 26 0 3.075k

*Output Stage
E9 40 0 VALUE = {IF(V(26) <= .66, V(26), 0.66)}
R26 6 40 3k
C22 6 0 2.1p
E10 41 0 6 42 1000
E11 43 0 VALUE = {IF(V(41) >= 0.4, v(41), 0.4)}
E12 4 0 VALUE = {IF(V(43) <= 4.75, v(43), 4.75)}
R27 42 0 1k
R28 4 42 3k

.ENDS


